US05001209
c. 4-di(2-hydroxyethyl)amino-4'-nitrostilbene
A mixture of the crude reaction product of the previous step, viz. 4-di(2-acetyloxyethyl)aminobenzaldehyde, 270 g of 4-nitrophenyl acetic acid, 2 l of dimethyl formamide, and 100 ml of piperdine was stirred for 4 days at 20°-25° C. Next, the reaction mixture was concentrated by evaporation at 70° C. to a thick red oil, which was titrated three times, each time with 1 l of n-hexane. The residue was dissolved in 2.5 l of dimethyl formamide. Then there was added a solution of 320 g of sodium hydroxide in 800 ml of water. The resulting reaction mixture was then heated for 16 hours to 100° C. and subsequently poured into 10 l of ice water. The precipitated product was filtered off and thoroughly after-washed three times, each time with 1 l of water. After drying the crude reaction product was crystallized from 250 ml of dimethyl formamide and 500 ml of dichloromethane. The resulting yield of 4-di(2-hydroxy-ethyl) amino-4'-nitrostilbene was 190 g with a melting point of 184°-185° C. Calculated on N,N-di(2-hydroxyethyl)aniline this is 58% of theory.

reactant | 4-di(2-acetyloxyethyl)aminobenzaldehyde | C(C)(=O)OCCN(C1=CC=C(C=O)C=C1)CCOC(C)=O | C15H19NO5
reactant | 4-nitrophenyl acetic acid | 270 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | piperdine | 100 ml | N1CCCCC1 | C5H11N
solvent | dimethyl formamide | 2 l | CN(C=O)C | C3H7NO
product | 4-di(2-hydroxyethyl)amino-4'-nitrostilbene | OCCN(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])CCO | C18H20N2O4
